US09278967B2
In a manner similar to the preparation of the compound of formula DC in Example 13, the compound of formula SA was prepared except that the compound of formula EC was used in place of the compound of formula DB and memantine hydrochloride (i.e., the hydrochloride of 1-amine-3,5-dimethyl-adamantane, Sigma-Aldrich) was used in place of 1-adamantylamine (yield 5%).

reactant | memantine hydrochloride | CC12CC3CC(C1)(CC(C3)(C2)N)C.Cl
reactant | hydrochloride | Cl | ClH
product | 1-adamantylamine | yield 5% | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
